US05859007
To a stirring solution of 2.5 g (5.74 mmol) of 2-(3-Allyl-3-methyl-2,4-dioxo-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxyphenyl) acetamide, prepared as in Part A, in 25 mL of DMF is added 1.81 g (11.5 mmol, 2 equiv.) of 3-bromopyridine, 1.12 g (11.5 mmol, 2 equiv.) of potassium acetate, and 364 mg (11.5 mmol) of copper powder. The suspension is heated to 125° C. for 4 h and then cooled to RT. It is diluted with 350 mL EtOAc and filtered through a bed of celite. The filtrate is washed with H2O (2×300 mL), conc. NH4OH (2×150 mL) and then dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 1.56 g of 2-(3-Allyl-3-methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-[4-methoxyphenyl]acetamide as an oil: 1H NMR (CDCl3, 300 MHz) δ8.51 (m, 2H), 7.68 (d, 1H, J=9), 7.39-6.93 (m, 8H), 6.71 (d, 1H, J=8), 5.78-5.64 (m, 1H), 5.08-5.00 (m, 2H), 4.72 (d, 1H, J=16), 4.39 (d, 1H, J=17), 4.08 (m, 1H), 3.85 (s, 3H), 3.81-3.79 (m, 1H), 2.11 (d, 1H, J=8), 1.77 (s, 1H), 1.60 (s, 2H), 1.21-1.07 (m, 6H).

reactant | 2-(3-Allyl-3-methyl-2,4-dioxo-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxyphenyl) acetamide | 5.74 mmol, 2.5 g | C(C=C)C1(C(NC2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O)C | C25H29N3O4
reactant | 3-bromopyridine | 11.5 mmol, 1.81 g, 2 equiv. | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium acetate | 11.5 mmol, 1.12 g, 2 equiv. | C(C)(=O)[O-].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 350 mL | CCOC(=O)C | C4H8O2
catalyst | copper | 11.5 mmol, 364 mg | [Cu] | Cu
product | 2-(3-Allyl-3-methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-[4-methoxyphenyl]acetamide | 1.56 g | C(C=C)C1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O)C | C30H32N4O4
